US07223791B2
To a solution (40 ml) of methyl 3-[chloro(hydroxyimino)methyl]benzoate (1.42 g) and ethynylbenzene (1.0 ml) in tetrahydrofuran was added dropwise a solution (10 ml) of triethylamine (2.5 ml) in tetrahydrofuran under an argon atmosphere at 0° C. This mixture was stirred overnight at room temperature and poured into water. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from hexane-ethyl acetate to give methyl 3-(5-phenyl-3-isoxazolyl)benzoate. (2.43 g, yield 96%) as colorless crystals. melting point: 99–100° C.

reactant | methyl 3-[chloro(hydroxyimino)methyl]benzoate | 40 ml, 1.42 g | ClC(C=1C=C(C(=O)OC)C=CC1)=NO | C9H8ClNO3
reactant | ethynylbenzene | 1.0 ml | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 3-(5-phenyl-3-isoxazolyl)benzoate | yield 96% | C1(=CC=CC=C1)C1=CC(=NO1)C=1C=C(C(=O)OC)C=CC1 | C17H13NO3
